US03965074
1-Chloro-2,2,2-trifluoro-1-(trifluoromethyl)ethyl isocyanate ##EQU8##
A mixture of 127 g (1 mole) of oxalyl chloride, 165 g (1 mole) of perfluoropropyliden-2-imine, and 5 ml of pyridine was heated in a 600 ml Hastelloy tube at 100° for 4 hrs, 105° for 4 hrs, and 200° for 4 hrs. The bomb was cooled and vented, and the contents were filtered to remove suspended solid. Distillation gave 102.3 g of a 25:75 mixture of (CF3)2CClNH2 and the isocyanate, bp 46.0°-46.5°, and 29.3 g of pure isocyanate as a colorless liquid: bp 50.5°-51.0°; 19F nmr (CCl3F) ε 78.0 (s); ir (liquid) 4.40 μ.

reactant | oxalyl chloride | 1 mole, 127 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (CF3)2CClNH2 | C(Cl)(C(F)(F)F)(C(F)(F)F)N | C3H2ClF6N
reactant | isocyanate | [N-]=C=O
reactant | isocyanate | 29.3 g | [N-]=C=O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-Chloro-2,2,2-trifluoro-1-(trifluoromethyl)ethyl isocyanate | ClC(C(F)(F)F)(C(F)(F)F)N=C=O | C4ClF6NO
